US05304556
(1) Preparation of 5-(4-chlorophenylthio)-2-(3-pyridylmethyl)-1H-isoindole-1,3 (2H)-dione (Compound No. 44 in Table)
To a suspension of 42 mg of sodium hydride (about 60%) in 10 ml of dimethylformamide was added 150 mg of 4-chlorothiophenol, and the resultant mixture was stirred at 60° C. for 30 minutes and mixed with 300 mg of 5-nitro-2-(3-pyridylmethyl)-1H-isoindole-1,3 (2H)-dione. The mixture was heated at 120° C. for 8 hours under stirring, mixed with water and shaken with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, concentrated in vacuo, and the resultant, residue was chromatographed on a column of silica gel, eluting with chloroform to give 201 mg of the titled compound.

reactant | sodium hydride | 42 mg | [H-].[Na+]
reactant | 4-chlorothiophenol | 150 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | 5-nitro-2-(3-pyridylmethyl)-1H-isoindole-1,3 (2H)-dione | 300 mg | [N+](=O)([O-])C=1C=C2C(N(C(C2=CC1)=O)CC=1C=NC=CC1)=O | C14H9N3O4
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(4-chlorophenylthio)-2-(3-pyridylmethyl)-1H-isoindole-1,3 (2H)-dione | 201 mg | ClC1=CC=C(C=C1)SC=1C=C2C(N(C(C2=CC1)=O)CC=1C=NC=CC1)=O | C20H13ClN2O2S
